US09428509B2
4-Nitro-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazole
To a stirred solution of tetrahydro-2H-pyran-4-ol (1 equiv), 4-nitro-1H-pyrazole (1 equiv) and triphenylphosphine (1.2 equiv) in THF (1.0 M) was added diisopropyl azodicarboxylate (1.5 equiv) in THF (2.0 M) at 0° C. The mixture was stirred at room temperature overnight. The crude product was purified by silica gel chromatography (2.5% MeOH in DCM) to afford the desired product (23% yield) as a white solid. MS (ESI) m/z 198.1 [M+H]+.

reactant | tetrahydro-2H-pyran-4-ol | 1 equiv | O1CCC(CC1)O | C5H10O2
reactant | 4-nitro-1H-pyrazole | 1 equiv | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | triphenylphosphine | 1.2 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.5 equiv | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 1.0 M | C1CCOC1 | C4H8O
solvent | THF | 2.0 M | C1CCOC1 | C4H8O
product | 4-Nitro-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazole | 23% yield | [N+](=O)([O-])C=1C=NN(C1)C1CCOCC1 | C8H11N3O3
